US07790724B2
e) 4-Bromo-2-cyclohex-1-enyl-phenylamine
To a mixture of 4-bromo-2-iodo-phenylamine (2.00 g, 6.71 mmol), 2-cyclohex-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (1.40 g, 6.71 mmol) and Pd(PPh3)4 (388 mg, 0.336 mmol) in 40 mL of 1,4-dioxane was added 2.0 M aq Na2CO3 solution (26.8 mL, 53.7 mmol). After stirring at 80° C. for 5 h under Ar, the reaction was cooled to RT. The mixture was treated with EtOAc (100 mL), washed with H2O (3×30 mL) and brine (20 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (10-20% EtOAc/hexane) to give 1.47 g (87%) of the title compound as a light brown oil. Mass spectrum (ESI, m/z): Calcd. for C12H14BrN, 252.0 (M+H), found 252.0.

reactant | 4-bromo-2-iodo-phenylamine | 6.71 mmol, 2.00 g | BrC1=CC(=C(C=C1)N)I | C6H5BrIN
reactant | 2-cyclohex-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 6.71 mmol, 1.40 g | C1(=CCCCC1)B1OC(C(O1)(C)C)(C)C | C12H21BO2
reactant | Na2CO3 | 53.7 mmol, 2.0 M, 26.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.336 mmol, 388 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Bromo-2-cyclohex-1-enyl-phenylamine | 1.47 g, 87% | BrC1=CC(=C(C=C1)N)C1=CCCCC1 | C12H14BrN
